US04076838
193 g of phosphorus pentachloride are added to a solution of 76.8 g of 2-methyl-4-(4-propionylphenyl)butyric acid methyl ester in one liter of anhydrous ether, and the mixture is stirred at room temperature for 16 hours and is subsequently heated at reflux for one hour. The mixture is slowly poured on ice, is stirred for one hour and extracted with ether. The 4-[4-(1-chloro-1-propenyl)phenyl]-2-methylbutyric acid methyl ester obtained after evaporating the ether extract, is distilled in a vacuum (bulb type). B.P. 160°-170° at 0.06 mm of Hg.

reactant | phosphorus pentachloride | 193 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-methyl-4-(4-propionylphenyl)butyric acid methyl ester | 76.8 g | COC(C(CCC1=CC=C(C=C1)C(CC)=O)C)=O | C15H20O3
solvent | ether | one liter | CCOCC | C4H10O
product | 4-[4-(1-chloro-1-propenyl)phenyl]-2-methylbutyric acid methyl ester | COC(C(CCC1=CC=C(C=C1)C(=CC)Cl)C)=O | C15H19ClO2
